US07790709B2
Preparation of (E)-7-(2-carboxy-vinyl)-2-oxo-1,2,3,5-tetrahydro-pyrido[2,3-e][1,4]diazepine-4-carboxylic acid benzyl ester hydrochloride
A solution of (E)-7-(2-tert-butoxycarbonyl-vinyl)-2-oxo-1,2,3,5-tetrahydro-pyrido[2,3-e][1,4]diazepine-4-carboxylic acid benzyl ester (0.31 g, 0.73 mmol) in CH2Cl2 (5 mL) was treated with TFA (5 mL). After stirring at room temperature for 30 min, the clear tan solution was concentrated in vacuo. The resulting oil was treated with anhydrous HCl (10 mL of a 4.0 M solution in dioxane, 40 mmol) to give a cloudy mixture. The mixture was diluted with Et2O (200 mL) to give an off-white precipitate. After stirring for 15 min, the solid was isolated by filtration, washed with Et2O, and dried under vacuum for 1.5 h to give the title compound (0.27 g, 91%) as an off-white solid: 1H NMR (300 MHz, DMSO-d6) δ 10.50-10.47 (m, 1H), 8.49 (s, 1H), 8.09-8.15 (m, 1H), 7.53-7.59 (m, 1H), 7.15-7.33 (m, 5H), 6.51-6.65 (m, 1H), 5.42 (bs, 2H), 5.05-5.08 (m, 2H), 4.63 (s, 2H), 4.43 (s, 2H); MS (ESI) m/e 368 (M+H)+.

reactant | (E)-7-(2-tert-butoxycarbonyl-vinyl)-2-oxo-1,2,3,5-tetrahydro-pyrido[2,3-e][1,4]diazepine-4-carboxylic acid benzyl ester | 0.73 mmol, 0.31 g | C(C1=CC=CC=C1)OC(=O)N1CC(NC2=C(C1)C=C(C=N2)\C=C\C(=O)OC(C)(C)C)=O | C23H25N3O5
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | Et2O | 200 mL | CCOCC | C4H10O
product | (E)-7-(2-carboxy-vinyl)-2-oxo-1,2,3,5-tetrahydro-pyrido[2,3-e][1,4]diazepine-4-carboxylic acid benzyl ester hydrochloride | 0.27 g, 91% | Cl.C(C1=CC=CC=C1)OC(=O)N1CC(NC2=C(C1)C=C(C=N2)\C=C\C(=O)O)=O | InChI=1S/C19H17N3O5.ClH/c23-16-11-22(19(26)27-12-13-4-2-1-3-5-13)10-15-8-14(6-7-17(24)25)9-20-18(15)21-16;/h1-9H,10-12H2,(H,24,25)(H,20,21,23);1H/b7-6+;
